US07138414B2
e) 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-5-(6-methyl-5-oxo-4,5-dihydro-[1,2,4]triazin-3-yl)phenyl]urea
The solution of equivalent amounts of 2-chloro-4,5-difluorobenzoyl isocyanate was added dropwise to the solution of 60 mg of 3-(3-amino-4-chlorophenyl)-6-methyl-4H-[1,2,4]triazin-5-one in 8 ml of acetonitrile and the mixture was stirred at room temperature for 30 minutes. The solid was filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
reactant | 3-(3-amino-4-chlorophenyl)-6-methyl-4H-[1,2,4]triazin-5-one | 60 mg | NC=1C=C(C=CC1Cl)C1=NN=C(C(N1)=O)C | C10H9ClN4O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-5-(6-methyl-5-oxo-4,5-dihydro-[1,2,4]triazin-3-yl)phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)C2=NN=C(C(N2)=O)C)Cl)C=C(C(=C1)F)F | C18H11Cl2F2N5O3
